US06967197B2
To a solution of tert-butyl 2-[7-(5-bromo-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (5.00 g) in ethyl acetate (25 ml) was added 4N hydrochloric acid in ethyl acetate (13 ml) with ice-cooling. After stirring for 4 hours at room temperature, the mixture was poured into saturated aqueous sodium bicarbonate (50 ml). The separated organic layer was washed with brine, dried over sodium sulfate and filtered. The obtained filtrate was concentrated to give tert-butyl 2-[7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate (3.03 g) as a solid.

reactant | tert-butyl 2-[7-(5-bromo-2-thienyl)-4-tert-butoxycarbonyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 5.00 g | BrC1=CC=C(S1)C1(CCN(CCS1(=O)=O)C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C20H30BrNO6S2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-[7-(5-bromo-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetate | 3.03 g | BrC1=CC=C(S1)C1(CCNCCS1(=O)=O)CC(=O)OC(C)(C)C | C15H22BrNO4S2
